US06531474B1
[2-(4-Chloro-benzyloxy)-5-oxo-tetrahydro-furan-3-yl]-carbamic Acid Allyl Ester
Prepared from 3-allyloxycarbonylamino-4-hydroxy-butyric acid tert-butyl ester as described for 40 using 4-chlorobenzylalcohol to afford the title compound as a white solid. Anti-diastereomer: HPLC (C18 column) 10.924 min; 1H-NMR (500 MHz, CDCl3) δ 2.41 (d, J=8.0 Hz, 1H), 3.02 (dd, J=18.1, 7.8 Hz, 1H), 4.25 (br, 1H), 4.56 (m, 2H), 4.58 (d, J=11.7 Hz, 1H), 4.79 (d, J=11.7 Hz, 1H), 4.99 (br, 1H), 5.22 (dd, J=10.4, 1.1 Hz, 1H), 5.28 (dd, J=17.2, 1.3 Hz, 1H), 5.44 (s, 1H), 5.86 (m, 1H), 7.25 (d, J=8.4 Hz, 2H), 7.32 (d, J=8.4 Hz, 2H) ppm; LC-MS (ES+) m/e=326 (M+H); Syn-diastereomer: HPLC (C18 column) 10.780 min; 1H-NMR (500 MHz, CDCl3) δ 2.47 (dd, J=17.3, 10.5 Hz, 1H), 2.85 (dd, J=17.3, 8.4 Hz, 1H), 4.55 (m, 3H), 4.58 (d, J=11.7 Hz, 1H), 4.84 (d, J=11.7 Hz, 1H), 5.23 (dd, H=10.4, 1.1 Hz, 1H), 5.30 (d, J=16.6 Hz, 1H), 5.49 (d, J=5.0 Hz, 1H), 5.89 (ddt, J=17.1, 11.0, 5.4 Hz, 1H), 7.23 (d, J=8.3 Hz, 2H), 7.31 (d, J=8.3 Hz, 2H) ppm; LC-MS (ES+) m/e=326 (M+H).

reactant | 3-allyloxycarbonylamino-4-hydroxy-butyric acid tert-butyl ester | C(C)(C)(C)OC(CC(CO)NC(=O)OCC=C)=O | C12H21NO5
reactant | 4-chlorobenzylalcohol | ClC1=CC=C(CO)C=C1 | C7H7ClO
product | [2-(4-Chloro-benzyloxy)-5-oxo-tetrahydro-furan-3-yl]-carbamic Acid Allyl Ester | C(C=C)OC(NC1C(OC(C1)=O)OCC1=CC=C(C=C1)Cl)=O | C15H16ClNO5
